Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Peanut / Advil / propofol
 
Attending: ___
 
Chief Complaint:
dyspnea, afib with rvr
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with PMH significant for lung ca s/p LLL resection and 
recent admission from ___ for Flu B and pulmonary edema 
who represents today from ___ with worsening SOB, new AF 
w/RVR and concern for multifocal PNA. History obtained in 
___ with daughter who acted as ___. No d/c 
summary available, but it appears that during his last 
hospitalization he was initially admitted to the MICU for 
tachypnea and SOB and treated with bipap for flu B URI. 
Subsequently c/o to floor the next day and treated with a 5 day 
c/o oseltamavir and started on hydrocodone for chronic 
non-productive cough. Reports that SOB had mildly improved, but 
family felt he was generally weak with persistant cough at d/c. 
Developed worsening dyspnea with minimal exertion on AM of ___ 
with associated nausea, used albuterol inhaler ~5x and was noted 
to have HR in 150s at ___ so taken to ___ ED.  
In the ED, initial vitals were: 98.1 132 121/64 21 96%. Labs 
significant for WBC 4.0, hct 26.8 (baseline), Cr 4.3, trop 
0.3->.35, MB 5->7. EKG initially showed AF with RVR to 150s with 
STD. Patient was given metop 5mg x3 in addition to home toprol 
xL 100mg and started on a dilt gtt with eventualy conversion to 
NSR. CTA with areas of new opacification suggesting 
bronchopneumonia in posterior lower lobes bilaterally. Treated 
with IV cefepime and oseltamavir x1 to complete ___nd 
admitted to the medicine for potential PNA.  
Upon arrival to the floor, patient states that nausea resolved 
and dyspnea improved, but not enitrely resolved. Still reports 
chronic, non-productive cough unchanged since last admission. 
Also with generalized weakness and malaise. No dyspnea at rest, 
chest pain, palpitations, arm pain, back pain, abdominal pain, 
recent fever, chills, vomiting, night sweats, appetite 
supression, weakness, numbness, dizziness, lighteadedness, or 
paresthesias 
 
Past Medical History:
- ___ s/p LLL lobectomy ___, endobronchial squamous cell CA
___ with recurrence s/p photodynamic therapy x2, s/p
brachytherapy at ___
- PEA cardiac arrest ___ in setting of 
bronchoscopy/brachytherapy at ___, ROSC after 1 min, felt to 
be either from hypoxia or propofol
- CVA
- CAD s/p NSTEMI in the setting of UTI ___, Plavix stopped 
___
- BPH c/b urinary retention
- Mild-mod AS
- COPD
- Anemia: ___ ESRD, gets intermittent transfusions

 
Social History:
___
Family History:
Grandmother with lung cancer died age ___, father died in war.
 
Physical Exam:
ADMISSION:
Vitals: 97.5 111/66 73 18 100% 2.5L  
General: A&Ox3. NAD  
HEENT: EOMI. NCAT. MMM  
Neck: Supple, JVP ~7cm  
CV: RRR. ___ systolic murmur heard best at LUSB  
Lungs: Decreased breath sounds. CTAB. No adventitious sounds  
Abdomen: BS+. S/NT/ND  
GU: No foley  
Ext: WWP 2+ edema of BLE  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE:
98.6  125/61-150/72  ___  20  100% 2L NC
GEN: less frusterated, NAD 
HEENT: conjunctiva pink, sclera anicteric, MMM
CV: RRR, mid peaking systolic murmur at RUSB, no r/g
LUNG: mild end expiratory wheezing b/l, no inspiratory crackles 
appreciated
ABD: benign
EXT: wwp, no c/c/e
NEURO: grossly intact

 
Pertinent Results:
ADMISSION:
___ 03:31PM BLOOD WBC-4.0 RBC-2.92* Hgb-9.7* Hct-26.8* 
MCV-92 MCH-33.3* MCHC-36.4* RDW-15.1 Plt ___
___ 03:31PM BLOOD Neuts-71.6* Lymphs-17.7* Monos-7.2 
Eos-2.9 Baso-0.6
___ 03:31PM BLOOD ___ PTT-29.8 ___
___ 03:31PM BLOOD Plt ___
___ 03:31PM BLOOD Glucose-113* UreaN-28* Creat-4.3*# Na-137 
K-3.5 Cl-97 HCO3-26 AnGap-18
___ 03:31PM BLOOD CK(CPK)-176
___ 03:31PM BLOOD CK-MB-5
___ 03:31PM BLOOD cTropnT-0.30*
___ 09:00PM BLOOD cTropnT-0.35*
___ 06:35AM BLOOD CK-MB-8 cTropnT-0.45* ___

DISCHARGE:
___ 03:50PM BLOOD Hgb-9.4* Hct-26.3*
___ 07:30AM BLOOD WBC-4.5 RBC-2.66* Hgb-8.4* Hct-24.6* 
MCV-93 MCH-31.6 MCHC-34.1 RDW-15.0 Plt ___
___ 07:30AM BLOOD Neuts-62.6 ___ Monos-10.3 
Eos-4.1* Baso-0.4
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-94 UreaN-30* Creat-6.0*# Na-137 
K-4.3 Cl-97 HCO3-30 AnGap-14
___ 07:30AM BLOOD Calcium-8.5 Phos-4.0 Mg-2.0

CXR:
IMPRESSION:  
  
No acute cardiopulmonary process. Persistent interstitial 
abnormalities as seen on recent chest x-ray with consolidative 
process at the right lung base medially which was suspicious for 
recurrent disease. 

CTA:
IMPRESSION:  
  
1.  Areas of new opacification suggesting bronchopneumonia and 
posterior lower lobes bilaterally. 
  
2.  Stable left hilar ___ with patchy opacities in the mid to 
upper left lung that appear unchanged. 
  
3.  Persistent, similar to minimally decreased right upper lobe 
opacity. 
  
4.  No evidence of pulmonary embolism. 
  
5.  Coronary artery calcifications. 

 
Brief Hospital Course:
___ M ___ only speaking w/ h/o ___ s/p LLL lobectomy, CAD 
c/b NSTEMI, ESRD on HD, initially presenting with acute dyspnea 
in the setting of URI symptoms and subsequently found to be 
positive for flu initially admitted ICU for tachypnea requiring 
BiPAP, now back with a fib RVR (resolved) and new pna 

PRIMARY ISSUES:

#AFib w/ RVR: occurred in the setting of outpatient dialysis 
session. Pt noted to be tachycardic to 160s and this was seen in 
the ED upon arrival. It terminated spontaneously and never 
returned. Etiology was unknown but possibly 2'/2 numerous 
pulmonary problems including albuterol overuse, pna, flu, and 
cancer. He continued metoprolol. 

#Post-Viral Pneumonia: bronchopulmonary pneumonia on CT.  
Clinically, pt with shortness of breath and continued cough, but 
no fevers, or elevated WBC. Nevertheless, imaging rather 
convincing and post viral pneumonia is well described 
phenomenom. Most likely staph or strep and given lobectomy and 
current lung cancer, pt was treated with vancomycin and 
levofloxacin.

#Dyspnea on Exertion: Pt had persistent dyspnea on exertion and 
off oxygen would desaturate to <88% on RA. This was reportedly 
new for the pt. This was thought to be 2'/2 flu, pneumonia, and 
lobectomy with current active cancer leading to poor pulmonary 
substrate. He was discharged with a prescription for home O2. 

CHRONIC ISSUES: 

#ESRD: ___
-Continue sevelamer  
-Renally dose meds  

#BPH:  
-Continue tamsulosin  

#CAD:  
-Continue ASA, statin, and BB  

#Anemia: Chronic and at baseline  

#Chronic cough:  
-Continue chlorpheniramine-Hydrocodone  

#COPD:  
-Continue inhalers  

TRANSITIONAL ISSUES:
#post-flu pna: pt needs two mroe doses of vancomycin and 
levofloxacin

#hypoxia: multifactorial with lung ca, pna, and flu 
contributing. f/u response to supplemental O2

#lung ca: recurrent as suggested on PET, cytology positive from 
sputum cultures

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Acetaminophen 650 mg PO TID:PRN pain 
3. Finasteride 5 mg PO DAILY 
4. FoLIC Acid 1 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
7. Sarna Anti-Itch (camphor-menthol) 0.5-0.5 % topical PRN 
8. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
9. sevelamer CARBONATE 1600 mg PO BID: WITH SNACKS 
10. Simvastatin 20 mg PO QPM 
11. tamsuLOSIN 0.4 mg oral daily 
12. OSELTAMivir 30 mg PO POST HD (___) 
13. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
14. Metoprolol Succinate XL 100 mg PO DAILY 
15. Nitroglycerin SL 0.4 mg SL PRN chest pain 
16. Tiotropium Bromide 1 CAP IH DAILY 
17. Chlorpheniramine-Hydrocodone 5 mL PO QHS:PRN cough 

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Aspirin 81 mg PO DAILY 
4. Chlorpheniramine-Hydrocodone 5 mL PO QHS:PRN cough 
5. Finasteride 5 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Metoprolol Succinate XL 100 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Polyethylene Glycol 17 g PO DAILY 
10. Sarna Anti-Itch (camphor-menthol) 0.5-0.5 % topical PRN 
11. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
12. sevelamer CARBONATE 1600 mg PO BID: WITH SNACKS 
13. Simvastatin 20 mg PO QPM 
14. tamsuLOSIN 0.4 mg oral daily 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. Levofloxacin 500 mg PO Q48H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth q48 Disp 
#*2 Tablet Refills:*0
17. Vancomycin 1000 mg IV HD PROTOCOL 
RX *vancomycin 500 mg 2 500 MG IV with HD Disp #*2 Vial 
Refills:*0
18. Nitroglycerin SL 0.4 mg SL PRN chest pain 
19. home oxygen
___: ___ Diagnosis: Recurrent 
Lung Cancer Item: Concentrator and Portables
Flow: 3L with exertion; Objective: desaturate to 87% while 
ambulating, increase to 96% on 3L NC; Length of Need: 
indefinitely; For Home Use

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Influenza
Post-influenza pneumonia
afib with RVR (self terminated)
Lung cancer, recurrent

SECONDARY: 
CAD
COPD
ESRD on HD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___: 

You were admitted to ___ for 
shortness of breath and an irregular heart rate. You were found 
to be in atrial fibrillation with rapid ventricular response 
which self terminated. Your shortness of breath, in addition to 
the flu, was likely caused by a post-influenza pneumonia. You 
are being treated with two antibiotics for this pneumonia. You 
will continue these in your next dialysis session. 

You should resume all of your home medications as prescribed. 
You will also continue two antibiotics for your pneumonia. 

All the best for a speedy recovery!

Sincerely,
___ Treatment Team
 
Followup Instructions:
___